US05891889
Step B: Preparation of 4-Methoxymethyl-4-(3-tolylsulfanyl)piperidine hydrochloride salt
A solution of N-tert-butoxycarbonyl-4-methoxymethyl-4-(3-tolylsulfanyl)piperidine (0.18 g) in ethyl acetate (25 mL) at 0° C. was saturated with hydrogen chloride gas. The resultant solution was stirred at 0° C. for one h. The product solution was concentrated under vacuum to provide the title compound.

reactant | N-tert-butoxycarbonyl-4-methoxymethyl-4-(3-tolylsulfanyl)piperidine | 0.18 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(SC=1C=C(C=CC1)C)COC | C19H29NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 4-Methoxymethyl-4-(3-tolylsulfanyl)piperidine hydrochloride salt | Cl.COCC1(CCNCC1)SC=1C=C(C=CC1)C | InChI=1S/C14H21NOS.ClH/c1-12-4-3-5-13(10-12)17-14(11-16-2)6-8-15-9-7-14;/h3-5,10,15H,6-9,11H2,1-2H3;1H
